US04948533
21-(3-Carboxy-1-oxopropoxy)-17α-hydroxy-11α-(3,3-dimethyl-1-oxobutoxy)pregna-1,4-diene-3,20-dione
The A1-, 17,21-acetonide of 11-epi-cortisol (4.90g) was dissolved in 25 ml of pyridine and reacted with 2.40 g of t-butylacetyl chloride for 6 hours at room temperature under nitrogen. The mixture was partitioned between ether and aqueous sodium bicarbonate. The organic phase washed with brine and was dried over sodium sulfate and concentrated. The residue was chromatographed on silica gel with 40/60 ethyl acetate hexane to yield 3.87 g of TLC pure product. This material was dissolved in 200 ml of acetone. To this solution was added 10 ml of 10% aqueous HCl. The mixture was stirred for 48 hours. The reaction was concentrated. The residue was partitioned between methylene chloride and aqueous sodium bicarbonate. The organic phase was dried over sodium sulfate and concentrated. The 3.55 g residue. This residue was dissolved in 20 ml of DMF and was reacted with 1.00 g of succinic anhydride and a trace of potassium bicarbonate at room temperature for 20 h. The reaction was concentrated. The residue was chromatographed on silica gel (4% methanol in methylene chloride to 4% methanol/.5% HOAc in methylene chloride) to yield 4.01 g of the hemisuccinate. This was dissolved in methanol and reacted with an aqueous solution of 0.60 g of sodium bicarbonate. The solution was lyophilized. The residue was triturated with acetone and ether to yield 2.14 g of product which was 98.6% pure by hplc, decomp 220. Anal. Calcd for C31H41O9Na.H20. Calcd/Found: C, 62.20/55.69; H, 7.24/ 6.18; H20, 3.01/2.24. m/e=581.

reactant | 11-epi-cortisol | 4.90g | C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2[C@@H](C[C@]4([C@H]3CC[C@@]4(C(=O)CO)O)C)O | C21H30O5
reactant | t-butylacetyl chloride | 2.40 g | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | HCl | 10 ml | Cl | ClH
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | sodium bicarbonate | 0.60 g | C([O-])(O)=O.[Na+]
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
product | 21-(3-Carboxy-1-oxopropoxy)-17α-hydroxy-11α-(3,3-dimethyl-1-oxobutoxy)pregna-1,4-diene-3,20-dione | 2.14 g | C(=O)(O)CCC(OCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@@H](C[C@]12C)OC(CC(C)(C)C)=O)=O)O)=O)=O | C31H42O9
